US06355631B1
24.4 mg of a 75% dispersion of sodium hydride in mineral oil are added, at room temperature under an argon atmosphere, to a solution of 330 mg of {1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}(3,5-difluorobenzyl)amine in 25 cm3 of tetrahydrofuran. The mixture is stirred at room temperature for 1 hour before adding thereto 59 mm3 of methyl chloroformate, and then the stirring is maintained for 18 hours under the same conditions. The reaction mixture is supplemented with 0.3 cm3 of distilled water and the tetrahydrofuran is expelled in a rotary evaporator. The residue obtained is extracted with dichloromethane, the organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography on silica gel [eluent: dichloromethane/methanol (97.5/2.5 by volume)]. 328 mg of methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-(3,5-difluorobenzyl)carbamate are obtained in the form of a colorless oil [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.97 (mt: 2H); 3.39 (mt: 2H); 3.71 (s: 3H); 4.24 (broad s: 1H); 4.45 (unresolved complex: 1H); 4.57 (s: 2H); from 6.65 to 6.80 (mt: 3H); from 7.15 to 7.30 (mt: 8H)].

reactant | sodium hydride | [H-].[Na+]
reactant | {1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}(3,5-difluorobenzyl)amine | 330 mg | ClC1=CC=C(C=C1)C(N1CC(C1)NCC1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C23H20Cl2F2N2
reactant | methyl chloroformate | 59 mm3 | ClC(=O)OC | C2H3ClO2
reactant | water | 0.3 cm3 | O | H2O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-(3,5-difluorobenzyl)carbamate | 328 mg | ClC1=CC=C(C=C1)C(N1CC(C1)N(C(OC)=O)CC1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H22Cl2F2N2O2
